### PR TITLE
feat(Topology): add `Homeomorph.Set.iUnion`

### PR DESCRIPTION
**Pull request by peabrainiac**
Disjoint unions of families of sets are canonically isomorphic to disjoint unions of the corresponding subtypes, provided each set in the family can be separated from the others with an open neighbourhood. 

---

The equivalence underlying this homeomorphism is already in mathlib as `Set.unionEqSigmaOfDisjoint`. I think that should be renamed to `Equiv.Set.iUnion` for several reasons, but doing so would touch 5 different files, so it's probably cleaner to do that in a separate PR.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 1]
```diff
@@ -364,6 +364,41 @@ def Set.prod (s : Set X) (t : Set Y) : ↥(s ×ˢ t) ≃ₜ s × t where
...
+see `inducing_sigma`. A weaker condition like any two sets in the family having disjoint
+neighbourhoods is not enough, as the example of infinite collections of singletons in
+Hausdorff spaces shows. -/
+@[simps! symm_apply_coe]
+noncomputable def Set.iUnion {ι : Type*} {s : ι → Set X}
+    (hs : ∀ i, ∃ u ∈ 𝓝ˢ (s i), ∀ j ≠ i, Disjoint u (s j)) :
+    ⋃ i, s i ≃ₜ Σ i, s i := by
+  haveI hs' : Pairwise (Disjoint on s) := fun i j h ↦ by
+    have ⟨u, hu, hu'⟩ := hs i
+    exact (hu' j h.symm).mono_left (subset_of_mem_nhdsSet hu)
```
Comment (felixpernegger) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:380]:
```suggestion
  haveI hs' : Pairwise (Disjoint on s) := fun i j h ↦
    let ⟨u, hu, hu'⟩ := hs i
    (hu' j h.symm).mono_left (subset_of_mem_nhdsSet hu)
```

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 2]
```diff
@@ -364,6 +364,41 @@ def Set.prod (s : Set X) (t : Set Y) : ↥(s ×ˢ t) ≃ₜ s × t where
...
+  refine ((unionEqSigmaOfDisjoint hs').symm.toHomeomorphOfIsInducing ?_).symm
+  refine inducing_sigma.2 ⟨fun i ↦ ?_, fun i ↦ ?_⟩
+  · simp [Function.comp_def, ← IsInducing.subtypeVal.of_comp_iff, IsInducing.subtypeVal]
+  · have ⟨u, hu, hu'⟩ := hs i
```
Comment (felixpernegger) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:384]:
```suggestion
  · obtain ⟨u, hu, hu'⟩ := hs i
```
I think obtain is generally preferable, you do this a few times more in other places

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 3]
```diff
@@ -364,6 +364,41 @@ def Set.prod (s : Set X) (t : Set Y) : ↥(s ×ˢ t) ≃ₜ s × t where
...
+    have ⟨v, hvu, hv, hv'⟩ := mem_nhdsSet.1 hu
+    refine ⟨(↑) ⁻¹' v, hv.preimage_val, fun x ↦ ⟨fun h ↦ ?_, ?_⟩⟩
+    · simp only [mem_preimage, coe_unionEqSigmaOfDisjoint_symm_apply] at h
+      contrapose! h
+      exact notMem_subset hvu <| (hu' _ h).notMem_of_mem_right x.snd.2
+    · intro rfl
+      simpa using hv' x.snd.2
```
Comment (felixpernegger) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:391]:
```suggestion
      simp [hv' x.snd.2]
```

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 4]
```diff
@@ -364,6 +364,41 @@ def Set.prod (s : Set X) (t : Set Y) : ↥(s ×ˢ t) ≃ₜ s × t where
...
+
+@[simp]
+lemma Set.iUnion_apply_snd_coe {ι : Type*} {s : ι → Set X}
+    (hs : ∀ i, ∃ u ∈ 𝓝ˢ (s i), ∀ j ≠ i, Disjoint u (s j)) {x : ⋃ i, s i} :
+    ((Homeomorph.Set.iUnion hs x).snd : X) = x := by
+  have hs' : Pairwise (Disjoint on s) := fun i j h ↦ by
+    have ⟨u, hu, hu'⟩ := hs i
+    exact (hu' j h.symm).mono_left (subset_of_mem_nhdsSet hu)
```
Comment (felixpernegger) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:399]:
```suggestion
  have hs' : Pairwise (Disjoint on s) := fun i j h ↦
    let ⟨u, hu, hu'⟩ := hs i
    (hu' j h.symm).mono_left (subset_of_mem_nhdsSet hu)
```

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 5]
```diff
@@ -364,6 +364,41 @@ def Set.prod (s : Set X) (t : Set Y) : ↥(s ×ˢ t) ≃ₜ s × t where
...
+      contrapose! h
+      exact notMem_subset hvu <| (hu' _ h).notMem_of_mem_right x.snd.2
+    · intro rfl
+      simpa using hv' x.snd.2
+
+@[simp]
+lemma Set.iUnion_apply_snd_coe {ι : Type*} {s : ι → Set X}
+    (hs : ∀ i, ∃ u ∈ 𝓝ˢ (s i), ∀ j ≠ i, Disjoint u (s j)) {x : ⋃ i, s i} :
+    ((Homeomorph.Set.iUnion hs x).snd : X) = x := by
+  have hs' : Pairwise (Disjoint on s) := fun i j h ↦ by
```
Comment (felixpernegger) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:397]: You are proving this statements twice. Maybe extract it as its own lemma? (Could be make private, but the `Set.iUnion` needs to be unexposed.)

**Review by felixpernegger — COMMENTED** [review]
I think this generally looks good, just small comments

File: Mathlib/Topology/Homeomorph/Lemmas.lean [hunk 6]
```diff
@@ -364,6 +364,41 @@ def Set.prod (s : Set X) (t : Set Y) : ↥(s ×ˢ t) ≃ₜ s × t where
...
+subtypes when each set has a neighbourhood that is disjoint from all other sets.
+
+This condition is the precise condition needed for the bijection to be a homeomorphism:
+see `inducing_sigma`. A weaker condition like any two sets in the family having disjoint
+neighbourhoods is not enough, as the example of infinite collections of singletons in
+Hausdorff spaces shows. -/
+@[simps! symm_apply_coe]
+noncomputable def Set.iUnion {ι : Type*} {s : ι → Set X}
+    (hs : ∀ i, ∃ u ∈ 𝓝ˢ (s i), ∀ j ≠ i, Disjoint u (s j)) :
+    ⋃ i, s i ≃ₜ Σ i, s i := by
```
Comment (felixpernegger) [inline Mathlib/Topology/Homeomorph/Lemmas.lean:377]: I guess you could also prove the converse? I.e. if one has `⋃ i, s i ≃ₜ Σ i, s i`, then `∀ i, ∃ u ∈ 𝓝ˢ (s i), ∀ j ≠ i, Disjoint u (s j))`. Then you could simplify the docstring also

**Comment by j-loreaux** [comment]
@peabrainiac this is waiting on your response to Felix's comments.
